US04849419
S-(2,4,5-Trichlorophenyl) 4-(chlorothiocarbonyloxy)thiobenzoate
S-(2,4,5-Trichlorophenyl) 4-(hydroxy)thiobenzoate (5.4 g) in dry chloroform (70 ml) at -20° C. was treated sequentially with sodium hydroxide (0.78 g) in water (3 ml) and thiophosgene (1.85 ml). The solution was allowed to warm to room temperature and was stirred for a further 2 hours. The reaction mixture was then dried over calcium chloride and the filtered solution evaporated to give a crude solid. Purification by chromatography on silica gel using ethyl acetate/hexane mixtures as eluants afforded 3.4 g of the title compound.

reactant | S-(2,4,5-Trichlorophenyl) 4-(hydroxy)thiobenzoate | 5.4 g | OC1=CC=C(C(=O)SC2=C(C=C(C(=C2)Cl)Cl)Cl)C=C1 | C13H7Cl3O2S
reactant | sodium hydroxide | 0.78 g | [OH-].[Na+]
reactant | thiophosgene | 1.85 ml | C(=S)(Cl)Cl | CCl2S
solvent | chloroform | 70 ml | C(Cl)(Cl)Cl | CHCl3
solvent | water | 3 ml | O | H2O
product | S-(2,4,5-Trichlorophenyl) 4-(chlorothiocarbonyloxy)thiobenzoate | 3.4 g | ClC(=S)OC1=CC=C(C(=O)SC2=C(C=C(C(=C2)Cl)Cl)Cl)C=C1 | C14H6Cl4O2S2
